US04550105
In 150 ml of tetrahydrofuran is dissolved 5 g of cis-3-phthalimido-4-(E)-styryl-1-(2,4-dimethoxybenzyl)-2-oxoazetidine, followed by addition of 2.5 g of 10% palladium-on-carbon. The mixture is stirred in a hydrogen atmosphere for 30 minutes. The catalyst is filtered off and the filtrate is concentrated under reduced pressure. The residue is crystallized from ether and recovered by filtration to give 4.8 g of cis-3-phthalimido-4-(2-phenylethyl)-1-(2,4-dimethoxybenzyl)-2-oxoazetidine, m.p. 148°-150° C.

reactant | cis-3-phthalimido-4-(E)-styryl-1-(2,4-dimethoxybenzyl)-2-oxoazetidine | 5 g | C1(C=2C(C(N1[C@@H]1C(N([C@@H]1\C=C\C1=CC=CC=C1)CC1=C(C=C(C=C1)OC)OC)=O)=O)=CC=CC2)=O | C28H24N2O5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 2.5 g | [Pd] | Pd
product | cis-3-phthalimido-4-(2-phenylethyl)-1-(2,4-dimethoxybenzyl)-2-oxoazetidine | 4.8 g | C1(C=2C(C(N1[C@@H]1C(N([C@@H]1CCC1=CC=CC=C1)CC1=C(C=C(C=C1)OC)OC)=O)=O)=CC=CC2)=O | C28H26N2O5
